US07396846B2
N-(5-(4-Chlorophenyl)-3,3-dimethyl-1,1-dioxo-2,3-dihydroisothiazol-4-yl)methyl-N-methylamine
The title compound was prepared from (4-chlorophenyl)methanesulfonyl chloride and 1,1-dimethylpropargylamine according to the procedure described for Intermediate 4 replacing ethylamine by methylamine in the last step. 1H-NMR (DMSO-d6) δ 7.72 (bs, 1 H), 7.53 (m, 4H), 3.33 (s, 2 H), 2.16 (s, 3 H), 1.45 (s, 6 H).

reactant | (4-chlorophenyl)methanesulfonyl chloride | ClC1=CC=C(C=C1)CS(=O)(=O)Cl | C7H6Cl2O2S
reactant | 1,1-dimethylpropargylamine | CC(C)(C#C)N | C5H9N
reactant | ethylamine | C(C)N | C2H7N
reactant | methylamine | CN | CH5N
product | N-(5-(4-Chlorophenyl)-3,3-dimethyl-1,1-dioxo-2,3-dihydroisothiazol-4-yl)methyl-N-methylamine | ClC1=CC=C(C=C1)C1=C(C(NS1(=O)=O)(C)C)CNC | C13H17ClN2O2S
